US04686230
(a) 2-Chloromethyl-4,5-dimethoxy-pyridinium chloride
3 ml of thionyl chloride, dissolved in 10 ml of methylene chloride, are added dropwise to a solution, cooled to 0° C., of 5 g of 2-hydroxymethyl-4,5-dimethoxypyridine in 40 ml of methylene chloride in the course of one hour, the reaction mixture is then stirred at 20° C. for 4 hours, during which it becomes red-colored, 5 ml of toluene are added and the mixture is concentrated completely on a rotary evaporator (30° C./5 mbar). The oily residue is dissolved in 50 ml of warm isopropanol and the solution is clarified with a little Tonsil®, filtered and concentrated again. The residue is taken up in 10 ml of toluene and the solution is made to crystallize with petroleum ether. After cooling in an ice-bath, the precipitate is filtered off with suction, washed with petroleum ether and dried. 4.6 g (70% of theory) of the title compound 2-chloromethyl-4,5-dimethoxy-pyridinium chloride are obtained as a colourless soldi; decomp. at 160°- 61° C.

reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-4,5-dimethoxypyridine | 5 g | OCC1=NC=C(C(=C1)OC)OC | C8H11NO3
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-4,5-dimethoxy-pyridinium chloride | [Cl-].ClCC1=[NH+]C=C(C(=C1)OC)OC | InChI=1S/C8H10ClNO2.ClH/c1-11-7-3-6(4-9)10-5-8(7)12-2;/h3,5H,4H2,1-2H3;1H
